US04090025
1-(2-methoxyethyl)- 4-phenyl-4-imidazolin-2-one
Phenacyl bromide (199 g.), in 400 ml. of chloroform, is added over one half hour to a mixture of 2-methoxyethylamine (82 g) and triethylamine (152 g.) in 200 ml. of chloroform at 0° C. The mixture is stirred for two hours at 0°-10° C. Water (400 ml.) is added and the organic layer is separated and washed with another 400 ml. of water. The chloroform layer is cooled to 0° C. with an ice bath and glacial acetic acid (72 g.) potassium cyanate (89 g.) and methanol (100 ml.) are added. The mixture is refluxed for ninety minutes, cooled and washed with saturated sodium bicarbonate solution, and the organic layer is dried over anhydrous sodium sulfate and then concentrated to give a semisolid. Trituration with 300 ml. of ether and filtration gives the title product as a yellow crystal; m.p. 152°-154° C.

reactant | Phenacyl bromide | 199 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | 2-methoxyethylamine | 82 g | COCCN | C3H9NO
reactant | triethylamine | 152 g | C(C)N(CC)CC | C6H15N
reactant | Water | 400 ml | O | H2O
product | 1-(2-methoxyethyl)- 4-phenyl-4-imidazolin-2-one | COCCN1C(NC(=C1)C1=CC=CC=C1)=O | C12H14N2O2
